US08067621B2
1,4-Difluoro-10a-(4-trifluoromethyl-benzenesulfonyl)-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one O-methyl-oxime
To a solution of trans-10a-(4-trifluoromethyl-benzenesulfonyl)-1,4-difluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one (40 mg, 0.10 mmol) in EtOH (2 mL) was added O-methyl hydroxylamine hydrochloride (20 mg, 0.23 mmol), and NEt3 (20 uL, 0.14 mmol). The reaction mixture was stirred overnight and then PS-dimethylaminoethyl resin was added, the stirring was continued for 2 h and then the resin removed by filtration. The solvent was removed under a stream of N2 and the residue purified by preparative TLC eluting with 25% ethyl acetate in hexanes (22 mg, 47%).

reactant | trans-10a-(4-trifluoromethyl-benzenesulfonyl)-1,4-difluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one | 0.10 mmol, 40 mg | FC(C1=CC=C(C=C1)S(=O)(=O)[C@@]12[C@H](COC3=C(C=CC(=C13)F)F)CC(CC2)=O)(F)F | C20H15F5O4S
reactant | O-methyl hydroxylamine hydrochloride | 0.23 mmol, 20 mg | Cl.CON
reactant | NEt3 | 0.14 mmol, 20 uL | CCN(CC)CC | C6H15N
solvent | EtOH | 2 mL | CCO | C2H6O
product | 1,4-Difluoro-10a-(4-trifluoromethyl-benzenesulfonyl)-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one O-methyl-oxime | CON=C1CCC2(C(COC3=C(C=CC(=C23)F)F)C1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C21H18F5NO4S
